US04217357
To a well-stirred solution of 2-isopropylindole (9.9 g.) in ethanol (30 ml.) at 0° C., there was added a 33% (w./w.) solution of dimethylamine in ethanol (10 ml.) and glacial acetic acid (3.5 ml.). A solution of 40% (w./v.) aqueous formaldehyde (5 ml.) was then added dropwise to the mixture, and the resulting solution was stirred at 5° C. for a period of one hour. Ice/water was next added to the reaction mixture, followed by excess solid potassium carbonate to give an orange oil. The liquid was then repeatedly extracted with diethyl ether (three times), using 50 ml. portions for each extraction. The combined ethereal extracts were then dried over anhydrous sodium sulfate and evaporated to give crude 3-(dimethylaminomethyl)-2-isopropylindole (4.5 g.) as a brown oil. The latter substance was used directly in Example I (as a starting material) without any further purification being necessary.

reactant | 2-isopropylindole | 9.9 g | C(C)(C)C=1NC2=CC=CC=C2C1 | C11H13N
reactant | dimethylamine | CNC | C2H7N
reactant | formaldehyde | 5 ml | C=O | CH2O
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | ethanol | 30 ml | C(C)O | C2H6O
solvent | ethanol | 10 ml | C(C)O | C2H6O
solvent | acetic acid | 3.5 ml | C(C)(=O)O | C2H4O2
product | 3-(dimethylaminomethyl)-2-isopropylindole | 4.5 g | CN(C)CC1=C(NC2=CC=CC=C12)C(C)C | C14H20N2
